US07122543B2
N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoyl]piperidine
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoic acid (80 mg, 0.1886 mmol), 4-dimethylaminopyridine (12 mg, 0.0983 mmol) and piperidine (32 mg, 0.3764 mmol) were dissolved in methylene chloride (10 ml), WSC-HCl (109 mg, 0.5685 mmol) was added thereto and the mixture was stirred at room temperature for 16 hours. The reaction solution was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by preparative thin layer chromatography (methylene chloride:methanol=95:5) to give the title compound (45 mg, 0.0918 mmol, 49%).

reactant | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoic acid | 0.1886 mmol, 80 mg | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)C=2C=NC=CC2)C(=C(C1OC)OC)OC)C | C24H25NO6
reactant | piperidine | 0.3764 mmol, 32 mg | N1CCCCC1 | C5H11N
reactant | WSC HCl | 0.5685 mmol, 109 mg | CCN=C=NCCCN(C)C.Cl
catalyst | 4-dimethylaminopyridine | 0.0983 mmol, 12 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(3-pyridyl)benzoyl]piperidine | 0.0918 mmol, 45 mg, 49% | COC=1C(=C(CC=2C=CC(=C(C(=O)N3CCCCC3)C2)C=2C=NC=CC2)C(=C(C1OC)OC)OC)C | C29H34N2O5
